US07863294B2
Step 4: tert-Butyl 5-methoxy-3-(2-methoxy-2-oxoethyl)-2-methyl-1H-indole-1-carboxylate (EE4)
(5-Methoxy-2-methyl-1H-indol-3-yl)acetic acid was dissolved in dry MeOH, amberlyst 15 resin (2.8 parts in weight) was added and the mixture was stirred overnight at RT. The mixture was centrifuged, the supernatant was separated and concentrated to dryness under reduced pressure. The residue was dissolved in DCM and washed with sat. aq. NaHCO3 solution, dried (Na2SO4) and concentrated to dryness under reduced pressure. The resulting oil was dissolved in MeCN and DMAP (0.2 eq.) and Boc2O (1.2 eq.) were added and the mixture was stirred for 2 h at RT. The solvent was removed under reduced pressure and the residue was used in the next step without purification. MS (ES) C18H23NOs requires: 333, found: 334 (M+H)+.

reactant | (5-Methoxy-2-methyl-1H-indol-3-yl)acetic acid | COC=1C=C2C(=C(NC2=CC1)C)CC(=O)O | C12H13NO3
reactant | Boc2O | 1.2 eq. | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | MeOH | CO | CH4O
catalyst | DMAP | 0.2 eq. | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-Butyl 5-methoxy-3-(2-methoxy-2-oxoethyl)-2-methyl-1H-indole-1-carboxylate | COC=1C=C2C(=C(N(C2=CC1)C(=O)OC(C)(C)C)C)CC(=O)OC | C18H23NO5
